US08039495B2
Bis(tricyclohexylphosphine)palladium (236 mg, 0.35 mmol) was added to a stirred solution of 3-(4-iodo-phenoxymethyl)-benzoic acid methyl ester (6.5 g, 17.73 mmol), potassium carbonate (3.67 g, 26.6 mmol) and 4,5-difluoro-2-methoxyphenylboronic acid (5 g, 26.6 mmol) in 156 ml, dioxane were reacted as above and purified by flash chromatography with a gradient of 0-5% ethyl acetate in hexanes to give 6.51 g (95.6%) of 3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-benzoic acid methyl ester.

reactant | 3-(4-iodo-phenoxymethyl)-benzoic acid methyl ester | 17.73 mmol, 6.5 g | COC(C1=CC(=CC=C1)COC1=CC=C(C=C1)I)=O | C15H13IO3
reactant | potassium carbonate | 26.6 mmol, 3.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4,5-difluoro-2-methoxyphenylboronic acid | 26.6 mmol, 5 g | FC1=CC(=C(C=C1F)B(O)O)OC | C7H7BF2O3
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-benzoic acid methyl ester | 6.51 g, 95.6% | COC(C1=CC(=CC=C1)COC1=CC=C(C=C1)C1=C(C=C(C(=C1)F)F)OC)=O | C22H18F2O4
